US09102591B2
4-Cyano-N-[4,4-difluoro-1-(6-fluoro-pyridin-3-yl)-cyclohexylmethyl]-2-fluoro-benzamide
From 2-fluoro-4-cyanobenzoic acid and C-[4,4-difluoro-1-(6-fluoro-pyridin-3-yl)-cyclohexyl]-methylamine. LCMS (MH+): m/z=392.1, tR (minutes, Method D)=0.68

reactant | 2-fluoro-4-cyanobenzoic acid | FC1=C(C(=O)O)C=CC(=C1)C#N | C8H4FNO2
reactant | C-[4,4-difluoro-1-(6-fluoro-pyridin-3-yl)-cyclohexyl]-methylamine | FC1(CCC(CC1)(C=1C=NC(=CC1)F)CN)F | C12H15F3N2
product | 4-Cyano-N-[4,4-difluoro-1-(6-fluoro-pyridin-3-yl)-cyclohexylmethyl]-2-fluoro-benzamide | C(#N)C1=CC(=C(C(=O)NCC2(CCC(CC2)(F)F)C=2C=NC(=CC2)F)C=C1)F | C20H17F4N3O
